US07312248B2
To a suspension of cyclopropyl methanol (562 μl, 6.93 mmol), triphenylphosphine (2.02 g, 7.63 mmol) and N-hydroxyphthalimide (1.28 g, 7.63 mmol) in THF (10 mL) at 0° C. was added dropwise diethylazodicarboxylate (1.20 mL, 7.63 mmol) in THF (10 mL). The reaction mixture was allowed to stir for 15 h after which the solvent was removed under vacuum to dryness. Et2O (15 mL) was added to triturate the triphenylphosphine oxide and diethylhydrazinedicarboxylate, which was filtered off and washed with a little Et2O. The ethereal solution was concentrated under vacuum to give a residue which was filtered through a pad of silica (eluting with EtOAc/PE, 3:7). Removal of the solvent under reduced pressure afforded a pale yellow solid which was recrystallized from CH2Cl2/PE to give N-(cyclopropylmethoxy)phthalimide (1.30 g, 86%), as a white solid.

reactant | cyclopropyl methanol | 6.93 mmol, 562 μl | C1(CC1)CO | C4H8O
reactant | triphenylphosphine | 7.63 mmol, 2.02 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-hydroxyphthalimide | 7.63 mmol, 1.28 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | diethylazodicarboxylate | 7.63 mmol, 1.20 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-(cyclopropylmethoxy)phthalimide | 1.30 g, 86% | C1(CC1)CON1C(C=2C(C1=O)=CC=CC2)=O | C12H11NO3
